US05616586
9-Bromo-5-[(p-aminomethylphenyl)carbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride
To a solution of 9-bromo-5-[(p-tert-butoxycarbonylaminomethylphenyl)carbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (180 mg, 0.3 mmol) in THF (6 mL) was added 4N HCl in dioxane (6 mL). The mixture was stirred for 3 h at room temperature and concentrated. The residue was collected by filtration, washed with diethyl ether, and dried in vacuo to give 140 mg of the title compound (97%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.11 (s, 1H), 10.27 (s, 1H), 8.27 (bs, 2H), 7.61 (d, 2H, J=8.6 Hz), 7.40 (d, 2H, J=8.6 Hz), 7.23 (bs, 1H), 7.20 (bs, 1H), 5.17~5.26 (m, 1H), 3.96 (br, 2H), 3.10 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1 Hz), 2.56~2.71 (m, 2H), 2.09 (dm, 1H, J=13.5 Hz), 1.82~1.96 (m, 1H).

reactant | 9-bromo-5-[(p-tert-butoxycarbonylaminomethylphenyl)carbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.3 mmol, 180 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)CNC(=O)OC(C)(C)C)=O | C25H27BrN4O5
reactant | HCl | 4N | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 9-Bromo-5-[(p-aminomethylphenyl)carbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride | 140 mg, 97% | Cl.BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)CN)=O | InChI=1S/C20H19BrN4O3.ClH/c21-13-7-12-3-6-15(25-18(12)16(8-13)24-19(27)20(25)28)9-17(26)23-14-4-1-11(10-22)2-5-14;/h1-2,4-5,7-8,15H,3,6,9-10,22H2,(H,23,26)(H,24,27);1H
